US07223788B2
N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-cyclobutylmethoxyphenyl)propionamide
N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-hydroxyphenyl)propionamide was reacted with bromomethylcyclobutane by method H. This resulted in a product with the molecular weight 449.60 (C27H35N3O3); MS (ESI): 450 (M+H+).

reactant | N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-hydroxyphenyl)propionamide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(C(C)C1=CC=C(C=C1)O)=O | C22H27N3O3
reactant | bromomethylcyclobutane | BrCC1CCC1 | C5H9Br
product | N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-cyclobutylmethoxyphenyl)propionamide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(C(C)C1=CC=C(C=C1)OCC1CCC1)=O | C27H35N3O3
